US03950338
A solution of 3.2 g (0.02 mol) of N-phenyl-piperazine in 30 cm3 of toluene is added to 2.8 g (0.01 mol) of 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)-pyrimidine dissolved in 30 cm3 of toluene. Reaction takes place practically instantaneously with evolution of heat and the mixture sets solid due to formation of phenylpiperazine hydrochloride. The mixture is diluted with 100 cm3 of ethyl acetate, the solution is filtered, washed with water and dried (MgSO4) and the solvent is evaporated. The residue is recrystallised from 110 cm3 of isopropanol and yields 3.38 g (84%) of 2-(4'-phenyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine; melting point 186°C.

reactant | N-phenyl-piperazine | 0.02 mol, 3.2 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)-pyrimidine | 0.01 mol, 2.8 g | ClC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C12H12ClN3O3
reactant | phenylpiperazine hydrochloride | Cl.C1(=CC=CC=C1)N1CCNCC1
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
product | 2-(4'-phenyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine | 3.38 g, 84% | C1(=CC=CC=C1)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C22H25N5O3
